US07078407B2
Preparation of 3-[3,5-bis-(1-ethylpropoxy)-4-hydroxyphenyl]-N-[3-(3,4-dimethylphenyl)propyl]acrylamide
To the solution of 3-[3,5-bis-(1-ethylpropoxy)-4-hydroxyphenyl]acrylic acid (20 mg, 0.06 mmol) in DMF (0.2 ml) and Et3N (10 μl), was added 3(3,4-dimethylphenyl)propylamine (11 mg, 0.07 mmol) at 0° C. and was added the solution of BOP (29 mg, 0.07 mmol) in CH2Cl2 (0.2 ml). The solution was stirred for 30 minutes at 0° C. And then CH2Cl2 was evaporated in vacuo and the obtained residue was poured into ice water. The residue was extracted with EtOAc and washed with HCl (aq) and NaHCO3 (aq). And then the water was dried over anhydrous magnesium sulfate and filtered. The obtained filtrate was vacuum concentrated to give the residue, which was purified by column chromatography (EtOAc:Hexane=1:5), yielding 26 mg (90%) of the title compound as a oil.

reactant | 3-[3,5-bis-(1-ethylpropoxy)-4-hydroxyphenyl]acrylic acid | 0.06 mmol, 20 mg | C(C)C(CC)OC=1C=C(C=C(C1O)OC(CC)CC)C=CC(=O)O | C19H28O5
reactant | 3(3,4-dimethylphenyl)propylamine | 0.07 mmol, 11 mg | CC=1C=C(C=CC1C)CCCN | C11H17N
reactant | BOP | 0.07 mmol, 29 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 0.2 ml | CN(C)C=O | C3H7NO
solvent | Et3N | 10 μl | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 0.2 ml | C(Cl)Cl | CH2Cl2
product | 3-[3,5-bis-(1-ethylpropoxy)-4-hydroxyphenyl]-N-[3-(3,4-dimethylphenyl)propyl]acrylamide | 26 mg, 90% | C(C)C(CC)OC=1C=C(C=C(C1O)OC(CC)CC)C=CC(=O)NCCCC1=CC(=C(C=C1)C)C | C30H43NO4
